US04440788
S-Ethyl-N-acetyl-L-cysteine butylamide was synthesized in exactly the same manner as described in Example 14 except that the S-methyl-N-acetyl-L-cysteine and aqueous 70% ethylamine solution used in that example was replaced by S-ethyl-N-acetyl-L-cysteine and n-butylamine, respectively.

reactant | S-methyl-N-acetyl-L-cysteine | CSC[C@H](NC(C)=O)C(=O)O | C6H11NO3S
reactant | ethylamine | C(C)N | C2H7N
reactant | S-ethyl-N-acetyl-L-cysteine | C(C)SC[C@H](NC(C)=O)C(=O)O | C7H13NO3S
reactant | n-butylamine | C(CCC)N | C4H11N
product | S-Ethyl-N-acetyl-L-cysteine butylamide | C(CCC)NC([C@@H](NC(C)=O)CSCC)=O | C11H22N2O2S
